US07897607B2
4-Chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one
A mixture of 4-chloro-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one (0.43 g, 1.5 mmol), MeI (0.103 ml, 1.65 mmol), potassium carbonate (0.41 g, 3.0 mmol) and DMF (5 ml) was stirred at room temperature for 19 hours. The mixture was diluted with water (50 ml) and extracted with ethyl acetate (50 ml). The extract was washed with water, dried over magnesium sulfate and concentrated in vacuo. The residue was purified by silica gel chromatography eluting with hexane/ethyl acetate (3:1) to give 0.38 g (98%) of the title compound as crystals.

reactant | 4-chloro-1-mesityl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 1.5 mmol, 0.43 g | ClC=1C2=C(C(NN1)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C15H14ClN3O
reactant | MeI | 1.65 mmol, 0.103 ml | CI | CH3I
reactant | potassium carbonate | 3.0 mmol, 0.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | 4-Chloro-1-mesityl-6-methyl-1,6-dihydro-7H-pyrrolo[2,3-d]pyridazin-7-one | 0.38 g, 98% | ClC=1C2=C(C(N(N1)C)=O)N(C=C2)C2=C(C=C(C=C2C)C)C | C16H16ClN3O
